* Z:\home\jerryl\Git\Github_Public\Spice-Simulations\6T SRAM\Writing.asc
M1 Q Qbar VSS N004 NMOS l=5 w=15
M2 Q Qbar VDD VDD PMOS l=5 w=15
V1 VDD 0 2.5V
V2 0 VSS 2.5V
M3 Qbar Q VSS N003 NMOS l=5 w=15
M4 Qbar Q VDD VDD PMOS l=5 w=15
M5 Q WL BL_BAR N002 NMOS l=5 w=60
M6 BL WL Qbar N001 NMOS l=5 w=60
V3 BL 0 PULSE(0 1 0 0 0 1 2 2)
A1 BL 0 0 0 0 BL_BAR 0 0 BUF
V4 WL 0 PWL(0 0 1.3 0 1.4 1 1.8 1 1.9 0 2.2 0 2.3 1 2.7 1 2.8 0)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.MODEL NMOS NMOS(VT0=0.83 LAMBDA=0.06 KP=50U)
.MODEL PMOS PMOS(VT0=0.91 LAMBDA=0.06 KP=17U)
.tran 0 6s 0 1s
.backanno
.end
