* Z:\home\jerryl\Git\Github_Public\Spice-Simulations\CMOS Inverter\CMOS_Inverter.asc
M1 Vout Vin VSS N001 NMOS l=5 w=15
M2 Vout Vin VDD VDD PMOS l=5 w=30
V1 VDD 0 2.5V
V2 0 VSS 2.5V
V3 Vin 0 PULSE(-2.5 2.5 1n 1n 1n 100n 200n 3)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.MODEL NMOS NMOS(VT0=0.83 LAMBDA=0.06 KP=50U)
.MODEL PMOS PMOS(VT0=0.91 LAMBDA=0.06 KP=17U)
.tran 600N
.backanno
.end
