* Z:\home\jerryl\Git\Github_Public\Spice-Simulations\Current Mirror\Current Mirror Transient Analysis\Transient_Analysis.asc
M1 N002 N001 VSS N003 NMOS l=5 w=15
M2 N001 N001 VSS N004 NMOS l=5 w=15
V1 VDD 0 2.5V
V2 0 VSS 2.5V
V3 N002 0 PULSE(0 2.5 1n 1n 1n 100n 200n 3)
R1 VDD N001 380K
C1 N002 N001 100f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.MODEL NMOS NMOS(VT0=0.83 LAMBDA=0.06 KP=50U)
.tran 600ns
.backanno
.end
