* Z:\home\jerryl\Git\Github_Public\Spice-Simulations\Decoder\Decoder.asc
V1 N006 0 PULSE(0 1 0 0.1m 0.1m 35m 70.2m 2)
V2 N005 0 PULSE(0 1 0 0.1m 0.1m 16m 32.2m 10)
V3 N004 0 PULSE(0 1 0 0.1m 0.1m 5m 10.2m 25)
A§N1 N006 0 0 0 0 N001 0 0 BUF
A§N2 N005 0 0 0 0 N002 0 0 BUF
A§N3 N004 0 0 0 0 N003 0 0 BUF
A3 N001 0 N005 0 N003 Out2 0 0 AND
A4 N001 0 N005 0 N004 Out3 0 0 AND
A5 N006 0 N002 0 N003 Out4 0 0 AND
A6 N006 0 N002 0 N004 Out5 0 0 AND
A7 N006 0 N005 0 N003 Out6 0 0 AND
A2 N001 0 N002 0 N004 Out1 0 0 AND
A8 N006 0 N005 0 N004 Out7 0 0 AND
A1 N001 0 N002 0 N003 Out0 0 0 AND
.tran 100m
.backanno
.end
