* PSpice Model Editor - Version 16.2.0
*$
* LP5907_3P8
*****************************************************************************
* (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LP5907_3P8
* Date: 30SEP2014 
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SNVS798G-APRIL 2012-REVISED OCTOBER 2013
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
.SUBCKT LP5907_3P8_TRANS EN VIN VOUT N_C GND
R_R6         N15485016 VYY  10 TC=0,0 
C_U1_C3         0 N15484496  1n  
E_U1_E2         U1_DROP 0 TABLE { V(ISENSE, 0) } 
+ ( (0m,1m) (50m,25m) (100m,50m) (150m,80m)  (200m,100m) (250m,130m) )
X_U1_U1         EN U1_N15491221 U1_N15488919 U1_N15488595 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_ABM6         U1_N15488677 0 VALUE { IF(V(U1_N15488285)> 0.6 &
+  V(U1_N15488595) > 0.6, {VREF}, 0)    }
R_U1_R3         U1_N15488677 U1_N15488381  {3.333e5*SQRT(TTRN)} TC=0,0 
V_U1_V1         U1_N15488919 0 0.4
C_U1_C1         0 U1_N15488381  {1e-6*SQRT(TTRN)}  
X_U1_U2         VIN U1_N15489025 U1_N15488281 U1_N15488285 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_U1_R6         0 EN  1meg TC=0,0 
R_U1_R4         U1_N15488775 U1_N15488397  10 TC=0,0 
V_U1_V5         U1_N15491221 0 {VEN}
R_U1_R2         GND U1_N15488397  1G  
C_U1_C2         0 U1_N15488397  1n  
V_U1_V3         U1_N15488281 0 {UHYS}
E_U1_ABM5         U1_N15488841 0 VALUE { MIN(V(U1_N15488397),  
+ MAX(V(VIN) - V(U1_DROP), 0))   }
R_U1_R5         U1_N15488841 N15484496  10 TC=0,0 
V_U1_V4         U1_N15489025 0 {UVLO}
E_U1_ABM4         U1_N15488775 0 VALUE { V(U1_N15488381)  
+ * (ABS(V(N15484536)) + 1e-6)  
+ / (ABS(V(N15484398)) + 1e-6)  }
R_U1_R1         GND U1_N15488381  1G  
C_C3         0 VYY  1n  
R_R3         GND N15484398  30.1k  
R_R9         0 N_C  100MEG TC=0,0 
R_R4         N15484398 VOUT  61.404k  
R_R1         VXX N15484422  {RINP}  
R_R2         N15484496 VXX  {PSRR*RINP}  
E_ABM1         N15485016 0 VALUE { MIN(V(VXX), (V(Vzz)+(ILIM*ROUT)))    }
C_C1         VXX N15484422  {1/(6.28*RINP*POLE)}  
C_C2         VXX N15484496  {1/(6.28*PSRR*RINP*ZERO)}  
R_R8         VIN N15484422  1 TC=0,0 
R_R5         VZZ VYY  {ROUT}  
C_C6         0 N15484422  1n  
X_F1    VZZ N15484536 N15484422 VYY LP5907_3P8_F1 
X_H1    N15484536 VOUT ISENSE 0 LP5907_3P8_H1 
.PARAM  psrr=1e-4 uvlo=0.4 ilim=500m ven=1.2 pole=300 zero=10k rinp=1e6
+  ttrn=1e-4 rout=10m vref=1.25 uhys=0.1
.ENDS LP5907_3P8_TRANS
*$
.subckt LP5907_3P8_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends LP5907_3P8_F1
*$
.subckt LP5907_3P8_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends LP5907_3P8_H1
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
