* Z:\home\jerryl\Git\Github_Public\Spice-Simulations\Multiplexer\multiplexer.asc
V§S2 N017 0 1
V§S1 N011 0 0
V§S0 N008 0 0
A§N1 N017 0 0 0 0 N003 0 0 BUF
A§N2 N011 0 0 0 0 N004 0 0 BUF
A§N3 N008 0 0 0 0 N005 0 0 BUF
A3 N009 0 N003 N011 N005 0 N010 0 AND
A4 N013 0 N003 N011 N008 0 N014 0 AND
A5 N016 0 N017 N004 N005 0 N015 0 AND
A6 N021 0 N017 N004 N008 0 N018 0 AND
A7 N022 0 N017 N011 N005 0 N019 0 AND
A2 N006 0 N003 N004 N008 0 N007 0 AND
A8 N023 0 N017 N011 N008 0 N020 0 AND
A1 N001 0 N003 N004 N005 0 N002 0 AND
A§O1 N002 N007 N010 N014 N015 0 N012 0 OR
A§O2 N012 0 N018 N019 N020 0 Out 0 OR
V§D0 N001 0 1
V§D1 N006 0 0
V§D2 N009 0 1
V§D3 N013 0 0
V§D4 N016 0 1
V§D5 N021 0 0
V§D6 N022 0 1
V§D7 N023 0 0
.tran 50m
.backanno
.end
