* Z:\home\jerryl\Git\Github_Public\Spice-Simulations\Opamp\Inverter\Inverter.asc
XU1 0 N001 N002 N004 Out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V§+Vcc N002 0 50
V§-Vcc N004 0 -50
R1 N001 Out 5k
R2 N001 N003 1k
Vin N003 0 SINE(0 5 50k 0 0 0 100)
.tran 50m
.lib UniversalOpamps2.sub
.backanno
.end
