* Z:\home\jerryl\Git\Github_Public\Spice-Simulations\RF Simulation\With_Q1_MPS5179_only.asc
C49 N002 Vout 47pf
L1 N002 Vout 0.22µH
C3 N004 0 150pf
L2 N004 N005 18µH
R3 N005 0 10E
R20 N001 N002 47E
V1 N001 0 12V
C2 Vin P001 15pf
R31 P001 N003 1K
V2 N003 0 PULSE(0 5 0 0 0 0.012291052us 0.024582104us 50)
Q1 Vout Vin N004 0 MPS5179
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 0 1us 0.1us
.backanno
.end
