* Z:\home\jerryl\Git\Github_Public\Spice-Simulations\SRAM Cell\Writing\Writing SRAM Cell.asc
A1 Q 0 0 0 0 Qbar 0 0 BUF
A2 Qbar 0 0 0 0 Q 0 0 BUF
M1 Q WL Vblbar Vblbar NMOS
M2 Qbar WL Vbl Vbl NMOS
V§WL WL 0 PWL(0 0 1 1 3 1 4 0)
V§BitLine_Bar Vblbar 0 0
V§BitLine Vbl 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 4s
.backanno
.end
